US03994890
By the procedure similar to that described in Example 13, 3-phenyl-5-methylindazole (4.17 g) and 1-morpholinopropyl chloride (3.93 g) were treated to obtain 4.1 g of 1-morpholinopropyl-3-phenyl-5-methylindazole hydrochloride (m.p. 180°-182° C).

reactant | 3-phenyl-5-methylindazole | 4.17 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C | C14H12N2
reactant | 1-morpholinopropyl chloride | 3.93 g | O1CCN(CC1)C(CC)Cl | C7H14ClNO
product | 1-morpholinopropyl-3-phenyl-5-methylindazole hydrochloride | 4.1 g | Cl.O1CCN(CC1)C(CC)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1 | InChI=1S/C21H25N3O.ClH/c1-3-18(24-11-13-25-14-12-24)19-15(2)9-10-17-20(19)21(23-22-17)16-7-5-4-6-8-16;/h4-10,18H,3,11-14H2,1-2H3,(H,22,23);1H
